US04940713
(a) Preparation of Ethyl 4-[(4-bromobutyl)tosylamino]benzoate
To 0.892 g (0.0372 mol) of sodium hydride resulting from washing 1.11-1.12 g of an 80% oil dispersion with hexanes under nitrogen was added 26 mL of dry dimethylformamide. To the stirred mixture was added dropwise over a 21 min period through an addition funnel a solution of 10.00 g (0.0313 mol) of ethyl 4-tosylaminobenzoate (Baker, B. R.; Santi, D. V.; Shapiro, H. S. J. Pharm. Sci.. 1964, 53, 1317) in 52 mL of dry dimethylformamide and then 3 mL of rinse dimethylformamide. When the stirred mixture had cooled to room temperature, to it was added at one time 27.74 g (0.128 mol) of 1,4-dibromobutane. The stirred mixture was heated for 4 h 45 min with a bath maintained near 80° C. and was allowed to cool to room temperature and stand under nitrogen overnight. The mixture was concentrated under vacuum at 40° C. to an oil/solid mixture; yield, 22.37 g. To the mixture was added 100 mL of ethyl acetate, and undissolved solid was collected by suction filtration. The filtrate was purified by a flash chromatography column consisting of 700 g of Silica Gel 60 with 6:1 hexane/ethyl acetate as the eluting solvent. The major fractions of clean product were combined and concentrated under vacuum to a colorless oil that solidified to a white solid; yield, 10.91 g (77%): NMR (Me2SOd6) δ 1.29 (t, 3H), 1.3-1.5 (m, 2H), 1.7-1.9 (m, 2H), 2.37 (s, 3H), 3.47 (t, 2H), 3.60 (t, 2H), 4.29 (q, 2H), 7.23 (d, 2H), 7.3-7.5 (AA'BB', 4H), 7.91 (d, 2H). An additional 5% yield was obtained from later column fractions.

reactant | sodium hydride | 0.0372 mol, 0.892 g | [H-].[Na+]
reactant | ethyl 4-tosylaminobenzoate | 0.0313 mol, 10.00 g | S(=O)(=O)(C1=CC=C(C)C=C1)NC1=CC=C(C(=O)OCC)C=C1 | C16H17NO4S
reactant | 1,4-dibromobutane | 0.128 mol, 27.74 g | BrCCCCBr | C4H8Br2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 52 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 26 mL | CN(C=O)C | C3H7NO
product | Ethyl 4-[(4-bromobutyl)tosylamino]benzoate | 5% yield | BrCCCCN(C1=CC=C(C(=O)OCC)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C20H24BrNO4S
